US07851475B2
3-[2-Amino-5-(4-methyl-piperazin-1-yl)-phenyl]-4-(1H-indol-3-yl)-pyrrole-2,5-dione
To a solution of 2-[2-amino-5-(4-methyl-piperazin-1-yl)-phenyl]-acetamide (124 mg, 0.50 mmol) and (1H-indol-3-yl)-oxo-acetic acid methyl ester (183 mg, 0.90 mmol) in dry THF (4.0 mL) is added a solution of 1.0 M t-BuOK in THF (2.0 mL, 2.0 mmol) at 0° C. under argon. After stirring for 30 min at 0° C. and 30 min at RT, TLC indicates the complete consumption of the acetamide. The dark red reaction mixture is partitioned between EtOAc (25 mL) and brine (25 mL), and the layers are separated. The pH of the aqueous layer is adjusted to 6 with a sat., aqueous NH4Cl solution. The aqueous layer is extracted with EtOAc (2×25 mL) and the combined organic layers are washed with brine (25 mL), dried over Na2SO4, and concentrated at reduced pressure. The crude product is purified by FCC (EtOAc/AcOH/H2O 5.5:1:1) to afford the title compound as its water soluble acetate salt. Red solid. 1H NMR (DMSO-d6, 400 MHz): δ 1.70 (s, 9H, CH3COO−), 2.25 (s, 3H), 2.22-2.38 (m, 4H), 2.78-2.84 (m, 4H), 6.51 (d, J=8.7 Hz, 1H), 6.63 (d, J=2.8 Hz, 1H), 6.64-6.68 (m, 2H), 6.77 (dd, J=8.7 Hz, J=2.8 Hz, 1H), 6.97-7.02 (m, 1H), 7.35 (d, J=8.0 Hz, 1H), 7.90 (s, 1H), 11.91 (bs, 1H). ES+-MS: 402 [M+H]+.

reactant | 2-[2-amino-5-(4-methyl-piperazin-1-yl)-phenyl]-acetamide | 0.50 mmol, 124 mg | NC1=C(C=C(C=C1)N1CCN(CC1)C)CC(=O)N | C13H20N4O
reactant | (1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.90 mmol, 183 mg | COC(C(=O)C1=CNC2=CC=CC=C12)=O | C11H9NO3
reactant | t-BuOK | 1.0 M | CC(C)(C)[O-].[K+]
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mmol, 2.0 mL | C1CCOC1 | C4H8O
product | 3-[2-Amino-5-(4-methyl-piperazin-1-yl)-phenyl]-4-(1H-indol-3-yl)-pyrrole-2,5-dione | NC1=C(C=C(C=C1)N1CCN(CC1)C)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C23H23N5O2
